* C:\Users\Daniel Teran\Documents\DANNYT\UC3M\DCEC\DCEC\tools\filtro_integrador.asc
XU1 VCM N001 Vdd 0 N004 level2 Avol=1Meg GBW=10Meg Slew=100Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=5000Meg
C1 N011 N010 1p
V1 Vdd 0 1.8
V3 phi1 0 PULSE(0 1.8 100n 10n 10n 280n 1u)
C2 N004 N001 20p
V4 phi2 0 PULSE(0 1.8 600n 10n 10n 280n 1u)
M2 N010 phi2 VCM 0 CMOSN l=500n w=2u
M3 N011 phi1 VCM 0 CMOSN l=500n w=2u
M4 N009 phi1 N010 0 CMOSN l=500n w=2u
M1 N011 phi2 N001 0 CMOSN l=500n w=2u
C7 N003 N002 1p
M13 N002 phi2 VCM 0 CMOSN l=500n w=2u
M14 N003 phi2 VCM 0 CMOSN l=500n w=2u
M15 N001 phi1 N002 0 CMOSN l=500n w=2u
M16 N003 phi1 N004 0 CMOSN l=500n w=2u
V2 N012 0 SINE(0.9 1.7 1.5e6)
V5 VCM 0 0.9
XU2 VCM N008 Vdd 0 Vlp level2 Avol=1Meg GBW=10Meg Slew=100Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=5000Meg
C4 N014 N013 10p
M5 N013 phi2 VCM 0 CMOSN l=500n w=2u
M6 N014 phi1 VCM 0 CMOSN l=500n w=2u
M7 N012 phi1 N013 0 CMOSN l=500n w=2u
M8 N014 phi2 N008 0 CMOSN l=500n w=2u
C3 N006 N005 1p
M9 N005 phi2 VCM 0 CMOSN l=500n w=2u
M10 N006 phi2 VCM 0 CMOSN l=500n w=2u
M11 N001 phi1 N005 0 CMOSN l=500n w=2u
M12 N006 phi1 N007 0 CMOSN l=500n w=2u
C5 Vlp N008 20p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Daniel Teran\Documents\LTspiceXVII\lib\cmp\standard.mos
.include tsmc018.lib
.tran 1m
.IC V(Vbp)=0 V(Vlp)=0
.lib UniversalOpAmp2.lib
.backanno
.end
